US06121308
1-ethoxycarbonylmethy-2-[(4-amidinophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole
Prepared analogously to Example 1e from 1-ethoxycarbonylmethyl-2-[(4-cyanophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole and ethanolic hydrochloric acid, ethanol and ammonium carbonate.

reactant | 1-ethoxycarbonylmethyl-2-[(4-cyanophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole | C(C)OC(=O)CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C#N | C28H23N5O5S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-ethoxycarbonylmethy-2-[(4-amidinophenyl)-oxymethyl]-5-(quinoline-8-sulphonylamino)-benzimidazole | C(C)OC(=O)CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(N)=N | C28H26N6O5S
